US06051712
In an analogous manner to that described in Example 24(g), by condensing tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl)-3-naphthalen-2-ylmethoxy-piperidine-1-carboxylate and thiophene-3-carboxylic acid using 1,1-carbonyldiimidazole as the condensation agent there was obtained tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(2-thiophen-3-ylcarbonyloxy-ethyl)-phenyl]-piperidine-1-carboxylate as white crystals, MS: 572 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl)-3-naphthalen-2-ylmethoxy-piperidine-1-carboxylate | OCCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C29H35NO4
reactant | thiophene-3-carboxylic acid | S1C=C(C=C1)C(=O)O | C5H4O2S
product | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(2-thiophen-3-ylcarbonyloxy-ethyl)-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CCOC(=O)C1=CSC=C1)C(=O)OC(C)(C)C | C34H37NO5S
